US08530461B2
(S)—N-(1-{4-[3-(4-Ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-2,2,2-trifluoro-acetamide
To 0.094 g (0.30 mmol) (S)-1-{4-[3-(4-ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethylamine (X.1) in 10 mL DCM are added 0.063 g (0.30 mmol) trifluoroacetic anhydride and the mixture is stirred for 30 min at rt. After concentration in vacuo the residue is purified by HPLC (C18 RP Sunfire, MeOH/water (+0.1% TFA)) to yield the desired product.

reactant | (S)-1-{4-[3-(4-ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethylamine | 0.30 mmol, 0.094 g | C(C)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)N)C=C1 | C19H24N2O2
reactant | trifluoroacetic anhydride | 0.30 mmol, 0.063 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-{4-[3-(4-Ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-2,2,2-trifluoro-acetamide | C(C)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C(F)(F)F)=O)C=C1 | C21H23F3N2O3
